US04552866
(C) (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester
(3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester (1.75 g, 2.75 mmol) was dissolved in ethanol (15 ml), and stirred in an ice bath. Sodium borohydride (150 mg, 3.95 mmol) was added and the solution was stirred at room temperature for 90 minutes. It was then evaporated, taken into ethyl acetate and washed with 10% aqueous potassium hydrogen sulfate solution. The ethyl acetate solution after evaporation was chromatographed over silica gel (100 g) using the solvent system ethyl acetate:hexane-4:6 to obtain 1.1 g of the title compound.

reactant | (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester | 2.75 mmol, 1.75 g | C(C)(C)(C)OC(=O)N[C@H](C(CN([C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C35H47N3O8
reactant | Sodium borohydride | 3.95 mmol, 150 mg | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (3S)-1-[N-[3-[[(t-Butyloxy)carbonyl]amino]-2-hydroxy-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, t-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N[C@H](C(CN([C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C35H49N3O8
